US09085555B2
D. 3-(tert-Butoxycarbonylamino-methyl)-5-chloro-4-fluoro-benzoic acid methyl ester
To a solution of 3-(tert-butoxycarbonylamino-methyl)-5-chloro-4-fluoro-benzoic acid (4.00 g, 13.2 mmol) in CH2Cl2 (100 mL) were added MeOH (6.94 mL, 171 mmol) and subsequently trimethylsilyldiazomethane (8.56 mL, 17.1 mmol) in a dropwise manner over 15 min. Stirring was continued at RT for 4.5 h. Volatiles were then evaporated under reduced pressure to afford the title compound as a colorless oil, which was used directly in the next step without further purification. TLC Rf (c-hexane/EtOAc 6:1)=0.40; tR (HPLC conditions c): 5.56 min.

reactant | 3-(tert-butoxycarbonylamino-methyl)-5-chloro-4-fluoro-benzoic acid | 13.2 mmol, 4.00 g | C(C)(C)(C)OC(=O)NCC=1C=C(C(=O)O)C=C(C1F)Cl | C13H15ClFNO4
reactant | MeOH | 171 mmol, 6.94 mL | CO | CH4O
reactant | trimethylsilyldiazomethane | 17.1 mmol, 8.56 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 3-(tert-Butoxycarbonylamino-methyl)-5-chloro-4-fluoro-benzoic acid methyl ester | COC(C1=CC(=C(C(=C1)Cl)F)CNC(=O)OC(C)(C)C)=O | C14H17ClFNO4
